US08378095B2
A solution of 5-bromo-2-(2,6-difluorophenyl)oxazole-4-carbonitrile (0.010 g, 0.04 mmol) in concentrated H2SO4 (0.4 mL) was stirred at room temperature for 4 hours. The reaction was neutralised with saturated sodium bicarbonate solution and extracted with EtOAc. The organic phase was dried over MgSO4 and the solvent removed in vacuo to afford 5-bromo-2-(2,6-difluorophenyl)oxazole-4-carboxamide (0.010 g, 0.03 mmol, 94%) as a white solid. 1H NMR (CDCl3) δ 5.79 (1H, br. s), 6.95 (1H, br. s), 7.07 (2H, t), 7.49 (1H, m). LCMS (1) Rt: 1.59 min; m/z (ES+) 303/305.

reactant | 5-bromo-2-(2,6-difluorophenyl)oxazole-4-carbonitrile | 0.04 mmol, 0.010 g | BrC1=C(N=C(O1)C1=C(C=CC=C1F)F)C#N | C10H3BrF2N2O
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | H2SO4 | 0.4 mL | OS(=O)(=O)O | H2O4S
product | 5-bromo-2-(2,6-difluorophenyl)oxazole-4-carboxamide | 0.03 mmol, 0.010 g, 94% | BrC1=C(N=C(O1)C1=C(C=CC=C1F)F)C(=O)N | C10H5BrF2N2O2
